US06579872B1
N-[5-(3-dimethylaminobenzamido)-2-methylphenyl]-2-(3-morpholinopropylamino)benzamide
Using an analogous procedure to that described in Example 20, N-[5-(3-dimethylaminobenzamido)-2-methylphenyl]-2-fluorobenzamide was reacted with 3-morpholinopropylamine to give the title compound in 33% yield; m.p. 239-240° C.; NMR Spectrum: (DMSOd6) 1.7 (m, 2H), 2.17 (s, 3H), 2.31 (m, 6H), 2.95 (s, 6H), 3.15 (q, 2H), 3.53 (t, 4H), 6.6 (t, 1H), 6.72 (d, 1H), 6.89 (m, 1H), 7.2 (m, 3H), 7.3 (m, 2H), (m, 1H), 7.65 (m, 1H), 7.75 (m, 2H), 9.69 (s, 1H), 10.06 (s, 1H); Mass Spectrum: M+H+ 516.

reactant | N-[5-(3-dimethylaminobenzamido)-2-methylphenyl]-2-fluorobenzamide | CN(C=1C=C(C(=O)NC=2C=CC(=C(C2)NC(C2=C(C=CC=C2)F)=O)C)C=CC1)C | C23H22FN3O2
reactant | 3-morpholinopropylamine | O1CCN(CC1)CCCN | C7H16N2O
product | N-[5-(3-dimethylaminobenzamido)-2-methylphenyl]-2-(3-morpholinopropylamino)benzamide | 33% yield | CN(C=1C=C(C(=O)NC=2C=CC(=C(C2)NC(C2=C(C=CC=C2)NCCCN2CCOCC2)=O)C)C=CC1)C | C30H37N5O3
